US05614548
(±)-1-S-hexadecyl-2-O-ethyl-3-O-tritylthioglycerol
This compound was prepared in an analogous manner to that of (±)-1-S-hexadecyl-2-O-methyl-3-O-tritylthioglycerol from 10.0 grams (0.02 mole) of (±)-1-S-hexadecyl-3-O-tritylthioglycerol and 3.3 grams (0.03 mole) of CH3CH2I to provide 10.0 grams of crude product as an oil. 1H-NMR (CDCl3): delta, 0.7-1.7[m, 34H, (CH2)14CH3, CH3 --CH2 --O], 2.3-2.8(m, 4H, CH2 --S--CH2), 3.5-3.9[m, 5H, OCH2 --CH3, CHCH2O], 7.1-7.5 [m, 15H, C(C6H5)3 ].

reactant | (±)-1-S-hexadecyl-2-O-methyl-3-O-tritylthioglycerol | C(CCCCCCCCCCCCCCC)SCC(OC)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C39H56O2S
reactant | (±)-1-S-hexadecyl-3-O-tritylthioglycerol | 0.02 mole, 10.0 grams | C(CCCCCCCCCCCCCCC)SCC(O)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H54O2S
reactant | CH3CH2I | 0.03 mole, 3.3 grams | CCI | C2H5I
product | (±)-1-S-hexadecyl-2-O-ethyl-3-O-tritylthioglycerol | 10.0 grams | C(CCCCCCCCCCCCCCC)SCC(OCC)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C40H58O2S
